US08314091B2
A: (3-Fluoro-4-nitrophenyl)(3-(fluoromethyl)piperazin-1-yl)methanone
A stirred suspension of 3-fluoro-4-nitrobenzoic acid (2 g, 10.8 mmol) in dichloromethane (30 mL) was cooled to 0° C. (ice/water bath). Oxalylchloride (1.648 g, 12.97 mmol) was added followed by N-methylpyrrolidinone (1 mL) to achieve a solution. The reaction mixture was stirred at 0° C. for 1 hour and then was concentrated under reduced pressure. The residue was azeotroped with dichloromethane (×3). The residue was redissolved in dichloromethane (20 mL) and cooled to 0° C. before the addition of triethylamine (64.8 mmol, 6.56 g) and 1-(fluoromethyl)piperazine dihydrochloride (10.8 mmol, 2.064 g). The reaction mixture was allowed to warm to room temperature and stir for 1 hour before being applied to a strong cation exchange column. The crude product was released from the column using 2M ammonia in methanol and purified using silica chromatography (4% methanol/dichloromethane) to give the title compound (444 mg). MS (ESI) m/z 286.4 [M+H]+

reactant | 3-fluoro-4-nitrobenzoic acid | 10.8 mmol, 2 g | FC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C7H4FNO4
reactant | Oxalylchloride | 12.97 mmol, 1.648 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 64.8 mmol, 6.56 g | C(C)N(CC)CC | C6H15N
reactant | 1-(fluoromethyl)piperazine dihydrochloride | 10.8 mmol, 2.064 g | Cl.Cl.FCN1CCNCC1
reactant | ammonia | 2M | N | H3N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
solvent | N-methylpyrrolidinone | 1 mL | CN1C(CCC1)=O | C5H9NO
product | (3-Fluoro-4-nitrophenyl)(3-(fluoromethyl)piperazin-1-yl)methanone | 444 mg | FC=1C=C(C=CC1[N+](=O)[O-])C(=O)N1CC(NCC1)CF | C12H13F2N3O3
